US08729102B2
1-[(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]-3-methylurea
Using tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate, and in the same manner as in Example 16, step A (using pyridine instead of triethylamine), the title compound was obtained.

reactant | tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate | C1(CC1)COC1=CC2=C(N=C(O2)C2=C(C=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)F)C=C1 | C24H28FN3O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-[(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]-3-methylurea | C1(CC1)COC1=CC2=C(N=C(O2)C2=C(C=C(C=N2)OC[C@H](C)NC(=O)NC)F)C=C1 | C21H23FN4O4
